US04956284
214 mg of (+)-4-(2-methoxyethyl)-phenyl glycidyl ether were condensed with isopropylamine as in Example 2 to obtain 146 mg of (-)-metoprolol melting at 44-46° C. with [α]D25=- 5.00° (c=1.01 in ethanol). Optical purity (method as in Example 2) was determined to be 98%. Evaporation of the mother liquor yielded 9 mg of (-)-metoprolol of 97.5% optical purity.

reactant | (+)-4-(2-methoxyethyl)-phenyl glycidyl ether | 214 mg | C(C1CO1)OC1=CC=C(C=C1)CCOC | C12H16O3
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | ethanol | C(C)O | C2H6O
product | (-)-metoprolol | 146 mg | CC(C)NC[C@@H](COC1=CC=C(C=C1)CCOC)O | C15H25NO3
